US06589970B2
Step 2: [1-Bromo-6-({[1-(4-chloro-phenyl)-5-trifluoromethyl-1H-pyrazole-4-carbonyl]-amino}-methyl)-naphthalen-2-yloxy]-acetic acid.
A mixture of [1-bromo-6-({[1-(4-chloro-phenyl)-5-trifluoromethyl-1H-pyrazole-4-carbonyl]-amino}-methyl)-naphthalen-2-yloxy]-acetic acid methyl ester (0.175 g, 0.29 mmol), prepared in the previous step, 1N NaOH (323 μL, 0.323 mmol), 2 mL of H2O and 100 mL of methanol was warmed until all solids had gone into solution. When the reaction cooled a solid precipitated. After the reaction had stirred for 17 h (overnight) a solid was still present. Another 162 μL (0.162 mmol) of 1N NaOH was added. The reaction stirred for 18 h. The reaction was filtered to remove any trace particles and acidified with 1N HCl until pH 1 by litmus paper. The methanol was removed under reduced pressure. The solid formed was collected by filtration and dried under reduced pressure to give the title compound (0.14 g, 8.3%) as a white solid, mp 245° C.

reactant | [1-bromo-6-({[1-(4-chloro-phenyl)-5-trifluoromethyl-1H-pyrazole-4-carbonyl]-amino}-methyl)-naphthalen-2-yloxy]-acetic acid methyl ester | 0.29 mmol, 0.175 g | COC(COC1=C(C2=CC=C(C=C2C=C1)CNC(=O)C=1C=NN(C1C(F)(F)F)C1=CC=C(C=C1)Cl)Br)=O | C25H18BrClF3N3O4
reactant | NaOH | 0.323 mmol, 1N, 323 μL | [OH-].[Na+]
reactant | H2O | 2 mL | O | H2O
reactant | NaOH | 0.162 mmol, 1N, 162 μL | [OH-].[Na+]
solvent | methanol | 100 mL | CO | CH4O
product | [1-Bromo-6-({[1-(4-chloro-phenyl)-5-trifluoromethyl-1H-pyrazole-4-carbonyl]-amino}-methyl)-naphthalen-2-yloxy]-acetic acid | 0.14 g, 8.3% | BrC1=C(C=CC2=CC(=CC=C12)CNC(=O)C=1C=NN(C1C(F)(F)F)C1=CC=C(C=C1)Cl)OCC(=O)O | C24H16BrClF3N3O4
